US07902226B2
7-[3-(R)-(1-aminocyclopropyl)pyrrolidin-1-yl]-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-5-hydroxy-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
A mixture of 7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-5-hydroxy-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (205 mg, 0.694 mmol), 3-(R)-[1-(tert-butoxycarbonylamino)cyclopropyl]pyrrolidine (314 mg, 1.388 mmol), N-methyl piperidine (0.243 ml, 1.388 mmol), and dimethyl sulfoxide (1.5 ml) was stirred for 66 hours while heating in an oil bath at 80° C. under a nitrogen-replaced atmosphere. After evaporating the solvent, the residue was partitioned in chloroform (50 ml) and 10% aqueous citric acid solution (30 ml), and after separating the organic layer, the aqueous layer was further subject to extraction into chloroform (30 ml). The combined organic layer was then dried over anhydrous sodium sulfate, and after removing the drying agent by filtration, the solvent was evaporated under a reduced pressure to thereby obtain a crude 7-{3-(R)-[1-(tert-butoxycarbonylamino)cyclopropyl]pyrrolidin-1-yl}-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-5-hydroxy-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid.

reactant | 7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-5-hydroxy-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.694 mmol, 205 mg | FC1=CC(=C2C(C(=CN(C2=C1C)[C@H]1[C@H](C1)F)C(=O)O)=O)O | C14H11F2NO4
reactant | 3-(R)-[1-(tert-butoxycarbonylamino)cyclopropyl]pyrrolidine | 1.388 mmol, 314 mg | C(C)(C)(C)OC(=O)NC1(CC1)[C@H]1CNCC1 | C12H22N2O2
reactant | N-methyl piperidine | 1.388 mmol, 0.243 ml | CN1CCCCC1 | C6H13N
solvent | dimethyl sulfoxide | 1.5 ml | CS(=O)C | C2H6OS
product | 7-[3-(R)-(1-aminocyclopropyl)pyrrolidin-1-yl]-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-5-hydroxy-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | NC1(CC1)[C@H]1CN(CC1)C1=CC(=C2C(C(=CN(C2=C1C)[C@H]1[C@H](C1)F)C(=O)O)=O)O | C21H24FN3O4
